US09102662B2
Preparation of N-[5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-2-fluoro-5-formyl-benzamide
2-Fluoro-5-formyl-benzoic acid (368 mg, 2.187 mmol) in toluene (22 mL) was treated with thionyl chloride (1.59 mL, 21.87 mmol) and stirred under reflux temperature for 4 hours. The volatiles were evaporated, the residue was taken up with toluene (4 mL) and evaporated to dryness leaving an off white solid which was dissolved in dry THF (5 mL) and added drop-wise to a solution of 5-(3,5-difluoro-benzyl)-1-trityl-1H-indazol-3-ylamine (843 mg, 1.68 mmol) and DIPEA (0.88 mL, 5.04 mmol) in THF (10 mL), cooled to 4° C. The reaction was gradually brought to room temperature. After one night, the volatiles were evaporated. The crude was dissolved in DCM (150 mL) and washed with aqueous NaHCO3 (100 mL) then with water and finally with brine. After drying over sodium sulphate, evaporation and purification over silica gel (eluent: DCM) 868 mg of title compound as a white solid in 79% yield were obtained.

reactant | 2-Fluoro-5-formyl-benzoic acid | 2.187 mmol, 368 mg | FC1=C(C(=O)O)C=C(C=C1)C=O | C8H5FO3
reactant | thionyl chloride | 21.87 mmol, 1.59 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(3,5-difluoro-benzyl)-1-trityl-1H-indazol-3-ylamine | 1.68 mmol, 843 mg | FC=1C=C(CC=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N)C=C(C1)F | C33H25F2N3
reactant | DIPEA | 5.04 mmol, 0.88 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-2-fluoro-5-formyl-benzamide | 79% yield | FC=1C=C(CC=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C2=C(C=CC(=C2)C=O)F)=O)C=C(C1)F | C41H28F3N3O2
